US05834454
A mixture of ethyl 1-(2-carboxyethyl)- 4-methyl-1H-indole-2-carboxylate (1.00 g, 3.63 mmol), thionyl chloride (1.35 g, 11.4 mmol) and chloroform (16 ml) was heated under reflux for 5 hours. The reaction mixture was concentrated under reduced pressure and dichloromethane (80 ml) was added to the residue, followed by stirring at room temperature. Subsequently, aluminum chloride (2.02 g, 15.1 mmol) was added and the resulting mixture was stirred at room temperature for 1.5 hours and then heated under reflux for 0.5 hour. The reaction mixture was added to a mixture of water (300 ml) and 35% hydrochloric acid (1.5 ml), followed by extraction with chloroform (three times). The extract solution was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane=3/97) to obtain ethyl 5,6-dihydro-9-methyl-6-oxo-4H-pyrrolo-[3,2,1-ij]quinoline-2-carboxylate (0.53 g).

reactant | ethyl 1-(2-carboxyethyl)- 4-methyl-1H-indole-2-carboxylate | 3.63 mmol, 1.00 g | C(=O)(O)CCN1C(=CC2=C(C=CC=C12)C)C(=O)OCC | C15H17NO4
reactant | thionyl chloride | 11.4 mmol, 1.35 g | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 15.1 mmol, 2.02 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | chloroform | 16 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 5,6-dihydro-9-methyl-6-oxo-4H-pyrrolo-[3,2,1-ij]quinoline-2-carboxylate | 0.53 g | CC1=CC=C2C(CCN3C2=C1C=C3C(=O)OCC)=O | C15H15NO3
